US07576215B2
5-({3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]BENZYL}OXY)-1H-INDOLE-2-CARBOXYLIC ACID
The title compound was prepared using the procedure of example 69 using 5-Hydroxy-1H-indole-2-carboxylic acid methyl ester as the phenol and [3-(3-Benzyl-8-trifluoromethyl-quinolin-4-yl)-phenyl]-methanol as the alcohol. MS (ESI) m/z 553.

reactant | 5-Hydroxy-1H-indole-2-carboxylic acid methyl ester | COC(=O)C=1NC2=CC=C(C=C2C1)O | C10H9NO3
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | [3-(3-Benzyl-8-trifluoromethyl-quinolin-4-yl)-phenyl]-methanol | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)CO)C(F)(F)F | C24H18F3NO
product | 5-({3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]BENZYL}OXY)-1H-INDOLE-2-CARBOXYLIC ACID | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(COC=2C=C3C=C(NC3=CC2)C(=O)O)C=CC1)C(F)(F)F | C33H23F3N2O3
